US09145407B2
4-Fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenol
Cesium fluoride (790 mg, 5.2 mmol), tetrakis(triphenylphosphine)palladium(0) (300 mg, 0.26 mmol), and copper(I) iodide (100 mg, 0.52 mmol) were added to a solution of 4-fluoro-2-iodo-5-(trifluoromethyl)phenol (Preparation 10, 800 mg, 2.6 mmol) and 4-(tributylstannyl)pyridazine (1.1 g, 2.9 mmol) in N,N-dimethylformamide (6 mL). The reaction mixture was heated at 45° C. under an atmosphere of argon. After 1 hour, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate and water, and filtered through diatomaceous earth. The solids were washed with additional ethyl acetate. The layers were separated, and the organic layer washed with water, aqueous lithium chloride and brine, then dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was taken up in dichloromethane, concentrated onto diatomaceous earth, and purified by automated silica gel flash chromatography (100% dichloromethane to 10% methanol in dichloromethane gradient elution) to afford the title compound as an orange solid (598 mg).

reactant | Cesium fluoride | 5.2 mmol, 790 mg | [F-].[Cs+]
reactant | 4-fluoro-2-iodo-5-(trifluoromethyl)phenol | 2.6 mmol, 800 mg | FC1=CC(=C(C=C1C(F)(F)F)O)I | C7H3F4IO
reactant | 4-(tributylstannyl)pyridazine | 2.9 mmol, 1.1 g | C(CCC)[Sn](C1=CN=NC=C1)(CCCC)CCCC
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.52 mmol, 100 mg | [Cu]I
product | 4-Fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenol | 598 mg | FC1=CC(=C(C=C1C(F)(F)F)O)C1=CN=NC=C1 | C11H6F4N2O
